US05637593
Treatment of a cooled solution of N,N,N',N'-tetramethyldiaminomethane (0.854 g, 1.14 mL, 8.36 mmol) in CH2Cl2 (10 mL) with acetyl chloride (0.657 g, 0.59 mL, 8.36 mmol) followed by a solution of 5-(pyrimidin-2-yloxy)indole (1.268 g, 6.00 mmol) in CH2Cl2 (110 mL), gave after work-up: 3-(N,N-dimethylaminomethyl)-5-(pyrimidin-2-yloxy)indole as a yellow solid. This was treated with finely ground potassium cyanide (1.37 g, 21 mmol) and methyl iodide (2.94 g, 1.28 mL, 21 mmol) in DMF (70 mL) for 16 hr, and after appropriate work-up, 3-cyanomethyl-5-(pyrimidin-2-yloxy)indole was obtained as a light yellow solid, 0.98 g (65%).

reactant | N,N,N',N'-tetramethyldiaminomethane | 8.36 mmol, 1.14 mL, 0.854 g | CN(C)CN(C)C | C5H14N2
reactant | acetyl chloride | 8.36 mmol, 0.59 mL, 0.657 g | C(C)(=O)Cl | C2H3ClO
reactant | 5-(pyrimidin-2-yloxy)indole | 6.00 mmol, 1.268 g | N1=C(N=CC=C1)OC=1C=C2C=CNC2=CC1 | C12H9N3O
reactant | 3-(N,N-dimethylaminomethyl)-5-(pyrimidin-2-yloxy)indole | CN(C)CC1=CNC2=CC=C(C=C12)OC1=NC=CC=N1 | C15H16N4O
reactant | potassium cyanide | 21 mmol, 1.37 g | [C-]#N.[K+]
reactant | methyl iodide | 21 mmol, 1.28 mL, 2.94 g | CI | CH3I
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 110 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 3-cyanomethyl-5-(pyrimidin-2-yloxy)indole | C(#N)CC1=CNC2=CC=C(C=C12)OC1=NC=CC=N1 | C14H10N4O
